US07514470B2
N2-(3-Chloro-4-cyanophenyl)-N2-(cyclopropylmethyl)-N1-ethylalaninamide
Synthesized in a manner similar to example 3 using N-(3-chloro-4-cyanophenyl)-N-(cyclopropylmethyl)alanine and ethylamine: MS (ES) m/z 306 (M+1).

reactant | N-(3-chloro-4-cyanophenyl)-N-(cyclopropylmethyl)alanine | ClC=1C=C(C=CC1C#N)N([C@@H](C)C(=O)O)CC1CC1 | C14H15ClN2O2
reactant | ethylamine | C(C)N | C2H7N
product | N2-(3-Chloro-4-cyanophenyl)-N2-(cyclopropylmethyl)-N1-ethylalaninamide | ClC=1C=C(C=CC1C#N)N([C@@H](C)C(=O)NCC)CC1CC1 | C16H20ClN3O
